US09023864B2
{7-[4-(4-Dimethylamino-phenyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid
The title compound was prepared using procedures described in EXAMPLE 1 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 4-ethynyl-N,N-dimethylaniline. MS (+ESI) m/z: 416.2.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 4-ethynyl-N,N-dimethylaniline | C(#C)C1=CC=C(N(C)C)C=C1 | C10H11N
product | {7-[4-(4-Dimethylamino-phenyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid | CN(C1=CC=C(C=C1)C=1N=NN(C1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1)C | C24H25N5O2
